US05866568
A solution of imidazole (27.2 g) in DMF (100 ml) was added to a stirred solution of 2-methyl-3-(4-bromophenyl)propanol (37.4 g) and tert-butyldimethylsilyl chloride (28.9 g) in dry DMF (100 ml) at 0° C. The reaction mixture was allowed to stir, warming to ambient temperature, over 21 hours and was then poured onto ice (500 g). The reaction mixture was extracted with diethyl ether (3×500 ml), the combined organic layers were dried (MgSO4) and the solvent was evaporated to give 1-(tert-butyldimethylsiloxy)-2-methyl-3-(4-bromophenyl)propane as a yellow oil (53.3 g), mass spectrum (+ve CI): 343 (M+H)+.

reactant | imidazole | 27.2 g | N1C=NC=C1 | C3H4N2
reactant | 2-methyl-3-(4-bromophenyl)propanol | 37.4 g | CC(CO)CC1=CC=C(C=C1)Br | C10H13BrO
reactant | tert-butyldimethylsilyl chloride | 28.9 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(tert-butyldimethylsiloxy)-2-methyl-3-(4-bromophenyl)propane | 53.3 g | O([Si](C)(C)C(C)(C)C)CC(CC1=CC=C(C=C1)Br)C | C16H27BrOSi
